Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
This is a ___ year old male status post laparoscopic band in 
___, now admitted with abdominal pain and outside hospital 
abdominal CT showing abscess around gastric band.
 
Major Surgical or Invasive Procedure:
___ post removal of infected gastric band, repair of 
erosion
___: Placement of 5.0 ___ Dual Lumen Right Cephalic 
Peripherally Inserted Central Catheter PICC @ 54cm by IV team
___: Removal of Right Peripherally Inserted Central Catheter 
(PICC) secondary to swelling and erythema.
___: Placement of 5.0 ___ Dual Lumen Left Basilic 
Peripherally Inserted Central Catheter PICC @ 52cm by IV team 

 
History of Present Illness:
 The patient is a ___ man that is status post 
laparoscopic gastric bypass with over 100 pound weight loss, 
complicated by port infections for which the ports have been 
previously removed. He presents to the emergency room
after a 2-week history of mid abdominal pain and noted to have 
fevers to 103.  CT scans from an outside hospital reveals an 
inflammatory process in the mid abdomen. The patient was 
consented for diagnostic laparoscopy and removal
of the band.

 
Past Medical History:
Kidney stones
HTN(resolved p-band) 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Weight: 200lb/90.72kg
Height: 70
98.4 97 143/79 18 99% RA
No Apparent distress
Alert and orientated, comfortable
Perrl, Eomi
Abdomen: soft, nontender, nondistended. Well healed abdominal 
incisions.
Lungs: clear to auscultation bilaterally
Heart: RRR

 
Pertinent Results:
Admission Labs
--------------
___ 12:08AM 
WBC-12.8* RBC-4.73 Hgb-11.0* Hct-34.9* MCV-74* MCH-23.2* 
MCHC-31.5 RDW-14.4 Plt ___ UreaN-6 Creat-0.6 Na-134 K-4.0 
Cl-98 HCO3-18* AnGap-22* Calcium-7.9* Phos-2.7 Mg-2.0
.
___ 01:05PM
WBC-15.6* RBC-5.38 Hgb-12.5* Hct-40.1 MCV-75* MCH-23.3* 
MCHC-31.2 RDW-15.5 Plt ___ Glucose-151* UreaN-8 Creat-0.5 
Na-141 K-4.3 Cl-101 HCO3-26 AnGap-18 Calcium-9.1 Phos-2.5* 
Mg-2.2
.
Nutritional Labs
----------------
___
___
.
Radiology Studies
-----------------
___ 2:16 AM ~CHEST (PA & LAT)
INDICATION: Preoperative evaluation.
IMPRESSION: No acute cardiopulmonary process.
.
___ 3:20 AM ~CT ABDOMEN W/CONTRAST; CT PELVIS W/CONTRAST
HISTORY: ___ male with history of laparoscopic band 
placement with subsequent revision. Admitted for abscess around 
intra-abdominal tube. Now status post removal of infected 
gastric band and repair of erosion. Recently developed fever to 
102.5 and tachycardia. Concern for a leak or abscess.
IMPRESSION:
1. Extensive phlegmonous change around the lesser curve of the 
stomach and adjacent transverse colon. Small amount of 
extraluminal gas at this site may be related to recent surgery 
or infection. Long tubular phlegmonous tract with small amount 
of associated low-density fluid concerning for organizing 
abscess extends from stomach into the right pelvis. Appendix 
cannot be visualized separately from the area of pelvic 
phlegmon.
2. Multiple small locules of gas infiltrating the epicardial fat 
could be related to surgery but could indicate superior 
extension of infection.
3. Small left pleural effusion.
4. Small amount of gas within the urinary bladder. This would 
not be unusual if the patient has recently been catheterized 
with a Foley. However, if no Foley has been placed, findings are 
concerning for infection.
5. A few loops of mildly dilated small bowel in the upper 
abdomen are probably due to reactive ileus. No obstruction.
.
___ 10:17 AM ~UGI SGL CONTRAST W/ KUB
INDICATION: ___ male status post removal of gastric band 
and repair of erosion. Assess for leak.
IMPRESSION:
1. Examination consistent with small posterior gastric leak 
noted just inferior to the gastroesophageal junction probably at 
the original location of the gastric band.
2. Apparent circumfrential thickening of the mid fundus of the 
stomach of unclear significance.
.
___ 1:07 ___ ~ UNILAT UP EXT VEINS US RIGHT
INDICATION: ___ male with right upper extremity PICC 
line, now with erythema. Evaluate for thrombus in the right 
upper extremity.
IMPRESSION: Small amount of nonocclusive thrombus along the 
catheter within the cephalic and axillary veins. No occlusive 
thrombus identified.
.  
___ 10:37 AM ~ UGI SGL CONTRAST W/ KUB
INDICATION: ___ male with infected gastric band. Assess 
leak.
IMPRESSION: Persistent small posterior gastric leak relatively 
unchanged in appearance compared to examination of six days 
prior.
.

 
Brief Hospital Course:
Patient admitted on ___ with complaints of bilateral flank 
pain. CT scan reviewed and patient went to operating room for 
removal of gastric band. Postopertively patient is stable. 
Albumin level low at 2.7. PICC line placed for antibiotics and 
TPN. TPN started on ___. 

Postopertive Days 1 and 2 - Maximum temperture 101. Vital signs 
stable. Nasogastric tube kept in place. Foley catheter 
discontinued. Antibiotics and TPN continued. Out of bed and 
ambulating.

Postopertive Days 3 and 4 - Tachycardic to 128, maximum 
temperature 102.5. Abdominal CT obtained consistent with 
previous. Methylene blue test done at bedside was negative for a 
leak. Antibiotics changed to fluconazole, metronidazole, 
meropenem and vancomycin.

Postoperative Days 5 and 6 - Vital signs stable, afebrile. Feels 
"good". Out of bed, ambulating in halls. Nasogastric tube 
discontinued. Had small bowel movement. Lab work stable. Will 
increase vancomycin dose as trough was 6.2 today. TPN continued. 


Postoperative Days ___ - Remained stable with white count 10.5- 
12.3. Swelling of R upper extremity noted, Ultrasound confirmed 
a nonocclusive thrombus so R PICC line discontinued and L PICC 
placed on ___. Heparin drip started for thrombus.

Postoperative Day 11- Heparin drip discontinued per vascular.

Postoperative Day 12 - Upper Gi study done - showing persistent 
post gastric leak. Antibiotics per Infectious disease continued. 
TPN continued. 

Postoperative Day 13 - Methylene blue test done - negative.

Postoperative Day 15 - Vital signs remain stable. Last WBC 9.8. 
Nasogastric tube discontinued.

Postoperative Day ___ - Afebrile, vital signs stable. Tpn 
being cycled over 12 hours. Will discharge home today with 
antibiotics for 14 more days per Infectious disease and TPN. He 
will have nothing by mouth except small amounts of water until 
his return appointment to have another upper GI study and then 
see Dr. ___ the study. ___ Therapies will 
oversee his ___ line care and TPN needs.

 
Medications on Admission:
None
 
Discharge Medications:
1. ___ Line 
Patient will need ___ line care per ___ Home Therapies 
protocol.
2. Total Parent Nutrition
Goal 25kcal/1.5 grams protein. Weight: ***. Total Volume 
2300ml/d, AA135g/d, Dextrose 360g/d, Fat50g/d. 24hr infusion. 
NaCl *,NaAc *,NaPO4 *, KCl *, KAc *, KPO4 *, MgSO4 *, CaGluc *, 
Insulin Reg * units,  Famotidine 40mg/d, Trace elements daily, 
standard adult multivitamins. 
 
3. Outpatient Lab Work
Outpatient Lab Work ___: LFTs, amylase, lipase, 
albumin, triglycerides, iron, transferrin, TIBC, ferritin, 
Chem10. Please fax lab results to ___ at ___ 
___.
4. Fluconazole in Saline(Iso-osm) 400 mg/200 mL Piggyback Sig: 
Four Hundred (400) mg Intravenous Q24H (every 24 hours).
Disp:*6000 mg* Refills:*0*
5. Ertapenem 1 gram Recon Soln Sig: Five Hundred (500) mg 
Intravenous once a day: for 14 days.
Disp:*7000 mg* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Status Post removal of infected gastric band, repair of erosion.

 
Discharge Condition:
Stable

 
Discharge Instructions:
You are being discharged on medications to treat the pain from 
your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST  refrain from such activities while 
taking these medications.
 
 
Please call your doctor or return to the emergency room if you 
have any of the following:
 
 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 
 
* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___